US09023847B2
5-Methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester (building block)
The title compound was prepared in an analogous manner as 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester using methyl 3-amino-5-methylthiophene-2-carboxylate instead of methyl 3-amino-2-thiophenecarboxylate and obtained in 45% yield (HPLC: 99%, RT: 6.89 min). 1H NMR (DMSO-d6) 12.40 (br s, 1H), 10.58 (br s, 1H), 8.44 (s, 1H), 7.96 (br s, 1H), 7.47 (dd, J=3.1, 2.6 Hz, 1H), 6.63 (dd, J=3.3, 1.5 Hz, 1H), 3.82 (s, 3H), 2.55 (s, 3H); MS (m/z) 289 [M+H]+.

reactant | 3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC=CC1NC=1C2=C(N=CN1)NC=C2 | C12H10N4O2S
reactant | methyl 3-amino-5-methylthiophene-2-carboxylate | NC1=C(SC(=C1)C)C(=O)OC | C7H9NO2S
product | 5-Methyl-3-(7H-pyrrolo[2,3-d]pyrimidin-4-ylamino)-thiophene-2-carboxylic acid methyl ester | 45% yield | COC(=O)C=1SC(=CC1NC=1C2=C(N=CN1)NC=C2)C | C13H12N4O2S
